US09340546B2
TFA (2 mL, 25.96 mmol) was added to a stirred solution of tert-butyl 4-(3-nitro-4-pyridyl)-3,6-dihydro-2H-pyridine-1-carboxylate (883 mg, 2.892 mmol) in DCM (10 mL) and the reaction stirred at ambient temperature for 15 hours. The solvent was removed in vacuo and the residue azeotroped with DCM (×2) and ether (×2). The residue was passed through a 25 g SCX-2 cartridge and washed with MeOH/DCM mixtures. The product was eluted by washing the cartridge with 2M NH3 in MeOH/DCM mixtures and concentrated in vacuo to give 3′-nitro-1,2,3,6-tetrahydro-4,4′-bipyridine as an orange oil (523 mg, 88% Yield). MS (ES+) 206.1.

reactant | TFA | 25.96 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(3-nitro-4-pyridyl)-3,6-dihydro-2H-pyridine-1-carboxylate | 2.892 mmol, 883 mg | [N+](=O)([O-])C=1C=NC=CC1C=1CCN(CC1)C(=O)OC(C)(C)C | C15H19N3O4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3′-nitro-1,2,3,6-tetrahydro-4,4′-bipyridine | 523 mg, 88% Yield | [N+](=O)([O-])C=1C=NC=CC1C=1CCNCC1 | C10H11N3O2
